US08445510B2
1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a solution of 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-5-methyl-1H-pyrazole (1.15 g, 2.74 mmol) in THF (60 mL, 700 mmol) at rt was added 1.3 M of Isopropylmagnesium Chloride in THF (8.4 mL, 11 mmol), and the mixture was stirred for 1 h. The reaction was quenched with 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.24 mL, 13.7 mmol), and allowed to stir at rt for 1 h. Sat. NH4Cl was added, and the organic solvent was removed in vacuo. The material was extracted with DCM and water. The organic layer was dry-loaded onto silica gel and purified via column chromatography, eluting with 2-7% EtOAc/heptane. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, methanol-d4): δ=0.12 (s, 6H), 0.93 (s, 9H), 1.32 (s, 12H), 1.47-1.60 (m, 2H), 1.84-2.06 (m, 6H), 2.46 (s, 3H), 3.72-3.82 (m, 1H), 4.10-4.22 (m, 1H), 7.59 (s, 1H).

reactant | 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-4-iodo-5-methyl-1H-pyrazole | 2.74 mmol, 1.15 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C)I | C16H29IN2OSi
reactant | THF | 700 mmol, 60 mL | C1CCOC1 | C4H8O
reactant | Isopropylmagnesium Chloride | 1.3 M | C(C)(C)[Mg]Cl
reactant | THF | 11 mmol, 8.4 mL | C1CCOC1 | C4H8O
reactant | 2-methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 13.7 mmol, 2.24 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
reactant | NH4Cl | [NH4+].[Cl-]
product | 1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C22H41BN2O3Si
